*-- pdngen: spice deck generated for chip 'chiplet4' PDN
*-- die chiplet4:  W/H: 0.003/0.003


.subckt chiplet4
+nd_pad_port_0_1
+nd_pad_port_0_3
+nd_pad_port_0_5
+nd_pad_port_1_0
+nd_pad_port_1_2
+nd_pad_port_1_4
+nd_pad_port_2_1
+nd_pad_port_2_3
+nd_pad_port_2_5
+nd_pad_port_3_0
+nd_pad_port_3_2
+nd_pad_port_3_4
+nd_pad_port_4_1
+nd_pad_port_4_3
+nd_pad_port_4_5
+nd_pad_port_5_0
+nd_pad_port_5_2
+nd_pad_port_5_4
*-- p/g port #: 18/18
+nd_1_0_4666_6000

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_666_666 nd_1_0_2000_666 0.016324
rd_1_2_0_0_1 nd_1_0_2000_666 nd_1_0_3333_666 0.016324
rd_1_2_0_0_2 nd_1_0_3333_666 nd_1_0_4666_666 0.016324
rd_1_2_0_0_3 nd_1_0_4666_666 nd_1_0_6000_666 0.016324
rd_1_2_0_0_4 nd_1_0_6000_666 nd_1_0_7333_666 0.016324
rd_1_2_0_0_5 nd_1_0_7333_666 nd_1_0_8666_666 0.016324
rd_1_2_0_1_0 nd_1_0_666_2000 nd_1_0_2000_2000 0.016324
rd_1_2_0_1_1 nd_1_0_2000_2000 nd_1_0_3333_2000 0.016324
rd_1_2_0_1_2 nd_1_0_3333_2000 nd_1_0_4666_2000 0.016324
rd_1_2_0_1_3 nd_1_0_4666_2000 nd_1_0_6000_2000 0.016324
rd_1_2_0_1_4 nd_1_0_6000_2000 nd_1_0_7333_2000 0.016324
rd_1_2_0_1_5 nd_1_0_7333_2000 nd_1_0_8666_2000 0.016324
rd_1_2_0_2_0 nd_1_0_666_3333 nd_1_0_2000_3333 0.016324
rd_1_2_0_2_1 nd_1_0_2000_3333 nd_1_0_3333_3333 0.016324
rd_1_2_0_2_2 nd_1_0_3333_3333 nd_1_0_4666_3333 0.016324
rd_1_2_0_2_3 nd_1_0_4666_3333 nd_1_0_6000_3333 0.016324
rd_1_2_0_2_4 nd_1_0_6000_3333 nd_1_0_7333_3333 0.016324
rd_1_2_0_2_5 nd_1_0_7333_3333 nd_1_0_8666_3333 0.016324
rd_1_2_0_3_0 nd_1_0_666_4666 nd_1_0_2000_4666 0.016324
rd_1_2_0_3_1 nd_1_0_2000_4666 nd_1_0_3333_4666 0.016324
rd_1_2_0_3_2 nd_1_0_3333_4666 nd_1_0_4666_4666 0.016324
rd_1_2_0_3_3 nd_1_0_4666_4666 nd_1_0_6000_4666 0.016324
rd_1_2_0_3_4 nd_1_0_6000_4666 nd_1_0_7333_4666 0.016324
rd_1_2_0_3_5 nd_1_0_7333_4666 nd_1_0_8666_4666 0.016324
rd_1_2_0_4_0 nd_1_0_666_6000 nd_1_0_2000_6000 0.016324
rd_1_2_0_4_1 nd_1_0_2000_6000 nd_1_0_3333_6000 0.016324
rd_1_2_0_4_2 nd_1_0_3333_6000 nd_1_0_4666_6000 0.016324
rd_1_2_0_4_3 nd_1_0_4666_6000 nd_1_0_6000_6000 0.016324
rd_1_2_0_4_4 nd_1_0_6000_6000 nd_1_0_7333_6000 0.016324
rd_1_2_0_4_5 nd_1_0_7333_6000 nd_1_0_8666_6000 0.016324
rd_1_2_0_5_0 nd_1_0_666_7333 nd_1_0_2000_7333 0.016324
rd_1_2_0_5_1 nd_1_0_2000_7333 nd_1_0_3333_7333 0.016324
rd_1_2_0_5_2 nd_1_0_3333_7333 nd_1_0_4666_7333 0.016324
rd_1_2_0_5_3 nd_1_0_4666_7333 nd_1_0_6000_7333 0.016324
rd_1_2_0_5_4 nd_1_0_6000_7333 nd_1_0_7333_7333 0.016324
rd_1_2_0_5_5 nd_1_0_7333_7333 nd_1_0_8666_7333 0.016324
rd_1_2_0_6_0 nd_1_0_666_8666 nd_1_0_2000_8666 0.016324
rd_1_2_0_6_1 nd_1_0_2000_8666 nd_1_0_3333_8666 0.016324
rd_1_2_0_6_2 nd_1_0_3333_8666 nd_1_0_4666_8666 0.016324
rd_1_2_0_6_3 nd_1_0_4666_8666 nd_1_0_6000_8666 0.016324
rd_1_2_0_6_4 nd_1_0_6000_8666 nd_1_0_7333_8666 0.016324
rd_1_2_0_6_5 nd_1_0_7333_8666 nd_1_0_8666_8666 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_666_666 nd_2_0_666_2000 0.016324
rd_2_1_0_0_1 nd_2_0_666_2000 nd_2_0_666_3333 0.016324
rd_2_1_0_0_2 nd_2_0_666_3333 nd_2_0_666_4666 0.016324
rd_2_1_0_0_3 nd_2_0_666_4666 nd_2_0_666_6000 0.016324
rd_2_1_0_0_4 nd_2_0_666_6000 nd_2_0_666_7333 0.016324
rd_2_1_0_0_5 nd_2_0_666_7333 nd_2_0_666_8666 0.016324
rd_2_1_0_1_0 nd_2_0_2000_666 nd_2_0_2000_2000 0.016324
rd_2_1_0_1_1 nd_2_0_2000_2000 nd_2_0_2000_3333 0.016324
rd_2_1_0_1_2 nd_2_0_2000_3333 nd_2_0_2000_4666 0.016324
rd_2_1_0_1_3 nd_2_0_2000_4666 nd_2_0_2000_6000 0.016324
rd_2_1_0_1_4 nd_2_0_2000_6000 nd_2_0_2000_7333 0.016324
rd_2_1_0_1_5 nd_2_0_2000_7333 nd_2_0_2000_8666 0.016324
rd_2_1_0_2_0 nd_2_0_3333_666 nd_2_0_3333_2000 0.016324
rd_2_1_0_2_1 nd_2_0_3333_2000 nd_2_0_3333_3333 0.016324
rd_2_1_0_2_2 nd_2_0_3333_3333 nd_2_0_3333_4666 0.016324
rd_2_1_0_2_3 nd_2_0_3333_4666 nd_2_0_3333_6000 0.016324
rd_2_1_0_2_4 nd_2_0_3333_6000 nd_2_0_3333_7333 0.016324
rd_2_1_0_2_5 nd_2_0_3333_7333 nd_2_0_3333_8666 0.016324
rd_2_1_0_3_0 nd_2_0_4666_666 nd_2_0_4666_2000 0.016324
rd_2_1_0_3_1 nd_2_0_4666_2000 nd_2_0_4666_3333 0.016324
rd_2_1_0_3_2 nd_2_0_4666_3333 nd_2_0_4666_4666 0.016324
rd_2_1_0_3_3 nd_2_0_4666_4666 nd_2_0_4666_6000 0.016324
rd_2_1_0_3_4 nd_2_0_4666_6000 nd_2_0_4666_7333 0.016324
rd_2_1_0_3_5 nd_2_0_4666_7333 nd_2_0_4666_8666 0.016324
rd_2_1_0_4_0 nd_2_0_6000_666 nd_2_0_6000_2000 0.016324
rd_2_1_0_4_1 nd_2_0_6000_2000 nd_2_0_6000_3333 0.016324
rd_2_1_0_4_2 nd_2_0_6000_3333 nd_2_0_6000_4666 0.016324
rd_2_1_0_4_3 nd_2_0_6000_4666 nd_2_0_6000_6000 0.016324
rd_2_1_0_4_4 nd_2_0_6000_6000 nd_2_0_6000_7333 0.016324
rd_2_1_0_4_5 nd_2_0_6000_7333 nd_2_0_6000_8666 0.016324
rd_2_1_0_5_0 nd_2_0_7333_666 nd_2_0_7333_2000 0.016324
rd_2_1_0_5_1 nd_2_0_7333_2000 nd_2_0_7333_3333 0.016324
rd_2_1_0_5_2 nd_2_0_7333_3333 nd_2_0_7333_4666 0.016324
rd_2_1_0_5_3 nd_2_0_7333_4666 nd_2_0_7333_6000 0.016324
rd_2_1_0_5_4 nd_2_0_7333_6000 nd_2_0_7333_7333 0.016324
rd_2_1_0_5_5 nd_2_0_7333_7333 nd_2_0_7333_8666 0.016324
rd_2_1_0_6_0 nd_2_0_8666_666 nd_2_0_8666_2000 0.016324
rd_2_1_0_6_1 nd_2_0_8666_2000 nd_2_0_8666_3333 0.016324
rd_2_1_0_6_2 nd_2_0_8666_3333 nd_2_0_8666_4666 0.016324
rd_2_1_0_6_3 nd_2_0_8666_4666 nd_2_0_8666_6000 0.016324
rd_2_1_0_6_4 nd_2_0_8666_6000 nd_2_0_8666_7333 0.016324
rd_2_1_0_6_5 nd_2_0_8666_7333 nd_2_0_8666_8666 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_666_666 nd_2_0_666_666 0.005
rvd_1_0_0_1 nd_1_0_2000_666 nd_2_0_2000_666 0.005
rvd_1_0_0_2 nd_1_0_3333_666 nd_2_0_3333_666 0.005
rvd_1_0_0_3 nd_1_0_4666_666 nd_2_0_4666_666 0.005
rvd_1_0_0_4 nd_1_0_6000_666 nd_2_0_6000_666 0.005
rvd_1_0_0_5 nd_1_0_7333_666 nd_2_0_7333_666 0.005
rvd_1_0_0_6 nd_1_0_8666_666 nd_2_0_8666_666 0.005
rvd_1_0_1_0 nd_1_0_666_2000 nd_2_0_666_2000 0.005
rvd_1_0_1_1 nd_1_0_2000_2000 nd_2_0_2000_2000 0.005
rvd_1_0_1_2 nd_1_0_3333_2000 nd_2_0_3333_2000 0.005
rvd_1_0_1_3 nd_1_0_4666_2000 nd_2_0_4666_2000 0.005
rvd_1_0_1_4 nd_1_0_6000_2000 nd_2_0_6000_2000 0.005
rvd_1_0_1_5 nd_1_0_7333_2000 nd_2_0_7333_2000 0.005
rvd_1_0_1_6 nd_1_0_8666_2000 nd_2_0_8666_2000 0.005
rvd_1_0_2_0 nd_1_0_666_3333 nd_2_0_666_3333 0.005
rvd_1_0_2_1 nd_1_0_2000_3333 nd_2_0_2000_3333 0.005
rvd_1_0_2_2 nd_1_0_3333_3333 nd_2_0_3333_3333 0.005
rvd_1_0_2_3 nd_1_0_4666_3333 nd_2_0_4666_3333 0.005
rvd_1_0_2_4 nd_1_0_6000_3333 nd_2_0_6000_3333 0.005
rvd_1_0_2_5 nd_1_0_7333_3333 nd_2_0_7333_3333 0.005
rvd_1_0_2_6 nd_1_0_8666_3333 nd_2_0_8666_3333 0.005
rvd_1_0_3_0 nd_1_0_666_4666 nd_2_0_666_4666 0.005
rvd_1_0_3_1 nd_1_0_2000_4666 nd_2_0_2000_4666 0.005
rvd_1_0_3_2 nd_1_0_3333_4666 nd_2_0_3333_4666 0.005
rvd_1_0_3_3 nd_1_0_4666_4666 nd_2_0_4666_4666 0.005
rvd_1_0_3_4 nd_1_0_6000_4666 nd_2_0_6000_4666 0.005
rvd_1_0_3_5 nd_1_0_7333_4666 nd_2_0_7333_4666 0.005
rvd_1_0_3_6 nd_1_0_8666_4666 nd_2_0_8666_4666 0.005
rvd_1_0_4_0 nd_1_0_666_6000 nd_2_0_666_6000 0.005
rvd_1_0_4_1 nd_1_0_2000_6000 nd_2_0_2000_6000 0.005
rvd_1_0_4_2 nd_1_0_3333_6000 nd_2_0_3333_6000 0.005
rvd_1_0_4_3 nd_1_0_4666_6000 nd_2_0_4666_6000 0.005
rvd_1_0_4_4 nd_1_0_6000_6000 nd_2_0_6000_6000 0.005
rvd_1_0_4_5 nd_1_0_7333_6000 nd_2_0_7333_6000 0.005
rvd_1_0_4_6 nd_1_0_8666_6000 nd_2_0_8666_6000 0.005
rvd_1_0_5_0 nd_1_0_666_7333 nd_2_0_666_7333 0.005
rvd_1_0_5_1 nd_1_0_2000_7333 nd_2_0_2000_7333 0.005
rvd_1_0_5_2 nd_1_0_3333_7333 nd_2_0_3333_7333 0.005
rvd_1_0_5_3 nd_1_0_4666_7333 nd_2_0_4666_7333 0.005
rvd_1_0_5_4 nd_1_0_6000_7333 nd_2_0_6000_7333 0.005
rvd_1_0_5_5 nd_1_0_7333_7333 nd_2_0_7333_7333 0.005
rvd_1_0_5_6 nd_1_0_8666_7333 nd_2_0_8666_7333 0.005
rvd_1_0_6_0 nd_1_0_666_8666 nd_2_0_666_8666 0.005
rvd_1_0_6_1 nd_1_0_2000_8666 nd_2_0_2000_8666 0.005
rvd_1_0_6_2 nd_1_0_3333_8666 nd_2_0_3333_8666 0.005
rvd_1_0_6_3 nd_1_0_4666_8666 nd_2_0_4666_8666 0.005
rvd_1_0_6_4 nd_1_0_6000_8666 nd_2_0_6000_8666 0.005
rvd_1_0_6_5 nd_1_0_7333_8666 nd_2_0_7333_8666 0.005
rvd_1_0_6_6 nd_1_0_8666_8666 nd_2_0_8666_8666 0.005
*-- via layer 1-2: net: 0 VSS net
id_0_0_0_0 nd_1_0_666_666 0 pwl(0 0.0 4.998e-01ns 0.0  5.498e-01ns 1.0e-01  7.150e-01ns 1.0e-01  7.650e-01ns 0.0)
rdesr_0_0_0_0 nd_1_0_666_666 nd_1_0_666_666_ci 4.08964
cd_0_0_0_0 nd_1_0_666_666_ci 0 1.68994e-11
id_0_0_0_1 nd_1_0_2000_666 0 pwl(0 0.0 2.512e-01ns 0.0  3.012e-01ns 9.6e-03  7.154e-01ns 9.6e-03  7.654e-01ns 0.0)
rdesr_0_0_0_1 nd_1_0_2000_666 nd_1_0_2000_666_ci 20.295
cd_0_0_0_1 nd_1_0_2000_666_ci 0 6.98342e-12
id_0_0_0_2 nd_1_0_3333_666 0 pwl(0 0.0 7.105e-01ns 0.0  7.605e-01ns 1.1e-02  8.187e-01ns 1.1e-02  8.687e-01ns 0.0)
rdesr_0_0_0_2 nd_1_0_3333_666 nd_1_0_3333_666_ci 74.1675
cd_0_0_0_2 nd_1_0_3333_666_ci 0 2.37627e-12
id_0_0_0_3 nd_1_0_4666_666 0 pwl(0 0.0 8.586e-01ns 0.0  9.086e-01ns 2.5e-01  9.422e-01ns 2.5e-01  9.922e-01ns 0.0)
rdesr_0_0_0_3 nd_1_0_4666_666 nd_1_0_4666_666_ci 4.38282
cd_0_0_0_3 nd_1_0_4666_666_ci 0 1.78116e-11
id_0_0_0_4 nd_1_0_6000_666 0 pwl(0 0.0 5.470e-01ns 0.0  5.970e-01ns 1.6e-02  9.374e-01ns 1.6e-02  9.874e-01ns 0.0)
rdesr_0_0_0_4 nd_1_0_6000_666 nd_1_0_6000_666_ci 14.826
cd_0_0_0_4 nd_1_0_6000_666_ci 0 5.50608e-13
id_0_0_0_5 nd_1_0_7333_666 0 pwl(0 0.0 2.280e-01ns 0.0  2.780e-01ns 3.2e-02  9.322e-01ns 3.2e-02  9.822e-01ns 0.0)
rdesr_0_0_0_5 nd_1_0_7333_666 nd_1_0_7333_666_ci 4.04477
cd_0_0_0_5 nd_1_0_7333_666_ci 0 9.39721e-12
id_0_0_0_6 nd_1_0_8666_666 0 pwl(0 0.0 6.874e-01ns 0.0  7.374e-01ns 1.0e-01  8.702e-01ns 1.0e-01  9.202e-01ns 0.0)
rdesr_0_0_0_6 nd_1_0_8666_666 nd_1_0_8666_666_ci 4.72918
cd_0_0_0_6 nd_1_0_8666_666_ci 0 3.5425e-11
id_0_0_0_7 nd_1_0_666_2000 0 pwl(0 0.0 8.235e-01ns 0.0  8.735e-01ns 1.4e-01  9.331e-01ns 1.4e-01  9.831e-01ns 0.0)
rdesr_0_0_0_7 nd_1_0_666_2000 nd_1_0_666_2000_ci 5.67691
cd_0_0_0_7 nd_1_0_666_2000_ci 0 2.98741e-11
id_0_0_0_8 nd_1_0_2000_2000 0 pwl(0 0.0 6.050e-02ns 0.0  1.105e-01ns 1.6e-03  8.871e-01ns 1.6e-03  9.371e-01ns 0.0)
rdesr_0_0_0_8 nd_1_0_2000_2000 nd_1_0_2000_2000_ci 67.6254
cd_0_0_0_8 nd_1_0_2000_2000_ci 0 1.47213e-12
id_0_0_0_9 nd_1_0_3333_2000 0 pwl(0 0.0 6.531e-02ns 0.0  1.153e-01ns 4.2e-02  4.784e-01ns 4.2e-02  5.284e-01ns 0.0)
rdesr_0_0_0_9 nd_1_0_3333_2000 nd_1_0_3333_2000_ci 5.14222
cd_0_0_0_9 nd_1_0_3333_2000_ci 0 2.58041e-13
id_0_0_0_10 nd_1_0_4666_2000 0 pwl(0 0.0 1.997e-01ns 0.0  2.497e-01ns 1.3e-01  3.085e-01ns 1.3e-01  3.585e-01ns 0.0)
rdesr_0_0_0_10 nd_1_0_4666_2000 nd_1_0_4666_2000_ci 6.25233
cd_0_0_0_10 nd_1_0_4666_2000_ci 0 5.0701e-12
id_0_0_0_11 nd_1_0_6000_2000 0 pwl(0 0.0 3.378e-01ns 0.0  3.878e-01ns 1.2e-01  5.204e-01ns 1.2e-01  5.704e-01ns 0.0)
rdesr_0_0_0_11 nd_1_0_6000_2000 nd_1_0_6000_2000_ci 4.02777
cd_0_0_0_11 nd_1_0_6000_2000_ci 0 1.55543e-11
id_0_0_0_12 nd_1_0_7333_2000 0 pwl(0 0.0 2.179e-02ns 0.0  7.179e-02ns 7.3e-02  2.835e-01ns 7.3e-02  3.335e-01ns 0.0)
rdesr_0_0_0_12 nd_1_0_7333_2000 nd_1_0_7333_2000_ci 4.68598
cd_0_0_0_12 nd_1_0_7333_2000_ci 0 4.07117e-11
id_0_0_0_13 nd_1_0_8666_2000 0 pwl(0 0.0 4.810e-01ns 0.0  5.310e-01ns 3.8e-03  9.041e-01ns 3.8e-03  9.541e-01ns 0.0)
rdesr_0_0_0_13 nd_1_0_8666_2000 nd_1_0_8666_2000_ci 56.5938
cd_0_0_0_13 nd_1_0_8666_2000_ci 0 3.42572e-12
id_0_0_0_14 nd_1_0_666_3333 0 pwl(0 0.0 6.190e-01ns 0.0  6.690e-01ns 1.0e-01  8.230e-01ns 1.0e-01  8.730e-01ns 0.0)
rdesr_0_0_0_14 nd_1_0_666_3333 nd_1_0_666_3333_ci 4.28818
cd_0_0_0_14 nd_1_0_666_3333_ci 0 5.52923e-12
id_0_0_0_15 nd_1_0_2000_3333 0 pwl(0 0.0 2.968e-01ns 0.0  3.468e-01ns 3.8e-02  7.646e-01ns 3.8e-02  8.146e-01ns 0.0)
rdesr_0_0_0_15 nd_1_0_2000_3333 nd_1_0_2000_3333_ci 5.08413
cd_0_0_0_15 nd_1_0_2000_3333_ci 0 3.00783e-11
id_0_0_0_16 nd_1_0_3333_3333 0 pwl(0 0.0 4.368e-01ns 0.0  4.868e-01ns 5.1e-04  6.458e-01ns 5.1e-04  6.958e-01ns 0.0)
rdesr_0_0_0_16 nd_1_0_3333_3333 nd_1_0_3333_3333_ci 842.315
cd_0_0_0_16 nd_1_0_3333_3333_ci 0 2.18222e-13
id_0_0_0_17 nd_1_0_4666_3333 0 pwl(0 0.0 8.925e-01ns 0.0  9.425e-01ns 1.4e-01  9.489e-01ns 1.4e-01  9.989e-01ns 0.0)
rdesr_0_0_0_17 nd_1_0_4666_3333 nd_1_0_4666_3333_ci 11.0277
cd_0_0_0_17 nd_1_0_4666_3333_ci 0 7.73313e-12
id_0_0_0_18 nd_1_0_6000_3333 0 pwl(0 0.0 5.771e-01ns 0.0  6.271e-01ns 7.7e-02  7.883e-01ns 7.7e-02  8.383e-01ns 0.0)
rdesr_0_0_0_18 nd_1_0_6000_3333 nd_1_0_6000_3333_ci 5.55948
cd_0_0_0_18 nd_1_0_6000_3333_ci 0 2.62616e-11
id_0_0_0_19 nd_1_0_7333_3333 0 pwl(0 0.0 3.973e-01ns 0.0  4.473e-01ns 3.7e-03  8.510e-01ns 3.7e-03  9.010e-01ns 0.0)
rdesr_0_0_0_19 nd_1_0_7333_3333 nd_1_0_7333_3333_ci 53.7634
cd_0_0_0_19 nd_1_0_7333_3333_ci 0 3.26642e-12
id_0_0_0_20 nd_1_0_8666_3333 0 pwl(0 0.0 8.366e-02ns 0.0  1.337e-01ns 9.3e-03  7.951e-01ns 9.3e-03  8.451e-01ns 0.0)
rdesr_0_0_0_20 nd_1_0_8666_3333 nd_1_0_8666_3333_ci 13.6041
cd_0_0_0_20 nd_1_0_8666_3333_ci 0 7.76015e-12
id_0_0_0_21 nd_1_0_666_4666 0 pwl(0 0.0 9.633e-02ns 0.0  1.463e-01ns 3.5e-02  5.168e-01ns 3.5e-02  5.668e-01ns 0.0)
rdesr_0_0_0_21 nd_1_0_666_4666 nd_1_0_666_4666_ci 6.14024
cd_0_0_0_21 nd_1_0_666_4666_ci 0 1.76065e-11
id_0_0_0_22 nd_1_0_2000_4666 0 pwl(0 0.0 6.777e-01ns 0.0  7.277e-01ns 1.5e-01  7.523e-01ns 1.5e-01  8.023e-01ns 0.0)
rdesr_0_0_0_22 nd_1_0_2000_4666 nd_1_0_2000_4666_ci 7.84791
cd_0_0_0_22 nd_1_0_2000_4666_ci 0 4.69995e-12
id_0_0_0_23 nd_1_0_3333_4666 0 pwl(0 0.0 3.648e-01ns 0.0  4.148e-01ns 4.4e-02  5.541e-01ns 4.4e-02  6.041e-01ns 0.0)
rdesr_0_0_0_23 nd_1_0_3333_4666 nd_1_0_3333_4666_ci 10.7561
cd_0_0_0_23 nd_1_0_3333_4666_ci 0 1.55448e-11
id_0_0_0_24 nd_1_0_4666_4666 0 pwl(0 0.0 4.973e-01ns 0.0  5.473e-01ns 6.1e-02  7.146e-01ns 6.1e-02  7.646e-01ns 0.0)
rdesr_0_0_0_24 nd_1_0_4666_4666 nd_1_0_4666_4666_ci 6.79567
cd_0_0_0_24 nd_1_0_4666_4666_ci 0 1.43252e-11
id_0_0_0_25 nd_1_0_6000_4666 0 pwl(0 0.0 1.851e-01ns 0.0  2.351e-01ns 6.0e-02  5.390e-01ns 6.0e-02  5.890e-01ns 0.0)
rdesr_0_0_0_25 nd_1_0_6000_4666 nd_1_0_6000_4666_ci 4.21207
cd_0_0_0_25 nd_1_0_6000_4666_ci 0 3.02569e-11
id_0_0_0_26 nd_1_0_7333_4666 0 pwl(0 0.0 3.161e-01ns 0.0  3.661e-01ns 1.8e-02  7.008e-01ns 1.8e-02  7.508e-01ns 0.0)
rdesr_0_0_0_26 nd_1_0_7333_4666 nd_1_0_7333_4666_ci 13.0691
cd_0_0_0_26 nd_1_0_7333_4666_ci 0 1.1996e-11
id_0_0_0_27 nd_1_0_8666_4666 0 pwl(0 0.0 3.268e-01ns 0.0  3.768e-01ns 2.1e-02  5.048e-01ns 2.1e-02  5.548e-01ns 0.0)
rdesr_0_0_0_27 nd_1_0_8666_4666 nd_1_0_8666_4666_ci 24.5173
cd_0_0_0_27 nd_1_0_8666_4666_ci 0 2.44166e-12
id_0_0_0_28 nd_1_0_666_6000 0 pwl(0 0.0 4.597e-01ns 0.0  5.097e-01ns 2.0e-02  8.946e-01ns 2.0e-02  9.446e-01ns 0.0)
rdesr_0_0_0_28 nd_1_0_666_6000 nd_1_0_666_6000_ci 10.5215
cd_0_0_0_28 nd_1_0_666_6000_ci 0 1.79138e-11
id_0_0_0_29 nd_1_0_2000_6000 0 pwl(0 0.0 1.511e-01ns 0.0  2.011e-01ns 8.2e-02  2.152e-01ns 8.2e-02  2.652e-01ns 0.0)
rdesr_0_0_0_29 nd_1_0_2000_6000 nd_1_0_2000_6000_ci 17.0823
cd_0_0_0_29 nd_1_0_2000_6000_ci 0 1.16088e-12
id_0_0_0_30 nd_1_0_3333_6000 0 pwl(0 0.0 7.341e-01ns 0.0  7.841e-01ns 8.3e-02  8.957e-01ns 8.3e-02  9.457e-01ns 0.0)
rdesr_0_0_0_30 nd_1_0_3333_6000 nd_1_0_3333_6000_ci 6.68743
cd_0_0_0_30 nd_1_0_3333_6000_ci 0 7.44046e-12
id_0_0_0_31 nd_1_0_4666_6000 0 pwl(0 0.0 4.184e-01ns 0.0  4.684e-01ns 5.1e-02  5.557e-01ns 5.1e-02  6.057e-01ns 0.0)
rdesr_0_0_0_31 nd_1_0_4666_6000 nd_1_0_4666_6000_ci 12.7984
cd_0_0_0_31 nd_1_0_4666_6000_ci 0 6.19505e-12
id_0_0_0_32 nd_1_0_6000_6000 0 pwl(0 0.0 5.503e-01ns 0.0  6.003e-01ns 2.3e-02  7.166e-01ns 2.3e-02  7.666e-01ns 0.0)
rdesr_0_0_0_32 nd_1_0_6000_6000 nd_1_0_6000_6000_ci 23.3681
cd_0_0_0_32 nd_1_0_6000_6000_ci 0 4.6544e-12
id_0_0_0_33 nd_1_0_7333_6000 0 pwl(0 0.0 5.620e-01ns 0.0  6.120e-01ns 3.1e-02  9.438e-01ns 3.1e-02  9.938e-01ns 0.0)
rdesr_0_0_0_33 nd_1_0_7333_6000 nd_1_0_7333_6000_ci 7.52934
cd_0_0_0_33 nd_1_0_7333_6000_ci 0 5.33404e-12
id_0_0_0_34 nd_1_0_8666_6000 0 pwl(0 0.0 6.961e-01ns 0.0  7.461e-01ns 4.9e-02  8.756e-01ns 4.9e-02  9.256e-01ns 0.0)
rdesr_0_0_0_34 nd_1_0_8666_6000 nd_1_0_8666_6000_ci 10.3359
cd_0_0_0_34 nd_1_0_8666_6000_ci 0 1.36874e-11
id_0_0_0_35 nd_1_0_666_7333 0 pwl(0 0.0 8.333e-01ns 0.0  8.833e-01ns 3.3e-02  9.020e-01ns 3.3e-02  9.520e-01ns 0.0)
rdesr_0_0_0_35 nd_1_0_666_7333 nd_1_0_666_7333_ci 39.2048
cd_0_0_0_35 nd_1_0_666_7333_ci 0 1.83765e-12
id_0_0_0_36 nd_1_0_2000_7333 0 pwl(0 0.0 6.660e-02ns 0.0  1.166e-01ns 5.4e-02  4.722e-01ns 5.4e-02  5.222e-01ns 0.0)
rdesr_0_0_0_36 nd_1_0_2000_7333 nd_1_0_2000_7333_ci 4.1438
cd_0_0_0_36 nd_1_0_2000_7333_ci 0 2.01894e-13
id_0_0_0_37 nd_1_0_3333_7333 0 pwl(0 0.0 5.955e-01ns 0.0  6.455e-01ns 3.3e-01  6.513e-01ns 3.3e-01  7.013e-01ns 0.0)
rdesr_0_0_0_37 nd_1_0_3333_7333 nd_1_0_3333_7333_ci 4.86581
cd_0_0_0_37 nd_1_0_3333_7333_ci 0 2.43469e-11
id_0_0_0_38 nd_1_0_4666_7333 0 pwl(0 0.0 5.971e-01ns 0.0  6.471e-01ns 2.6e-01  6.555e-01ns 2.6e-01  7.055e-01ns 0.0)
rdesr_0_0_0_38 nd_1_0_4666_7333 nd_1_0_4666_7333_ci 5.86763
cd_0_0_0_38 nd_1_0_4666_7333_ci 0 3.46755e-12
id_0_0_0_39 nd_1_0_6000_7333 0 pwl(0 0.0 2.876e-01ns 0.0  3.376e-01ns 1.9e-02  7.520e-01ns 1.9e-02  8.020e-01ns 0.0)
rdesr_0_0_0_39 nd_1_0_6000_7333 nd_1_0_6000_7333_ci 10.088
cd_0_0_0_39 nd_1_0_6000_7333_ci 0 5.0232e-12
id_0_0_0_40 nd_1_0_7333_7333 0 pwl(0 0.0 4.219e-01ns 0.0  4.719e-01ns 1.5e-02  7.991e-01ns 1.5e-02  8.491e-01ns 0.0)
rdesr_0_0_0_40 nd_1_0_7333_7333 nd_1_0_7333_7333_ci 16.0208
cd_0_0_0_40 nd_1_0_7333_7333_ci 0 5.00581e-12
id_0_0_0_41 nd_1_0_8666_7333 0 pwl(0 0.0 1.074e-01ns 0.0  1.574e-01ns 8.0e-03  4.225e-01ns 8.0e-03  4.725e-01ns 0.0)
rdesr_0_0_0_41 nd_1_0_8666_7333 nd_1_0_8666_7333_ci 35.7993
cd_0_0_0_41 nd_1_0_8666_7333_ci 0 3.10215e-12
id_0_0_0_42 nd_1_0_666_8666 0 pwl(0 0.0 5.663e-01ns 0.0  6.163e-01ns 2.8e-02  9.452e-01ns 2.8e-02  9.952e-01ns 0.0)
rdesr_0_0_0_42 nd_1_0_666_8666 nd_1_0_666_8666_ci 8.49561
cd_0_0_0_42 nd_1_0_666_8666_ci 0 1.31824e-11
id_0_0_0_43 nd_1_0_2000_8666 0 pwl(0 0.0 2.487e-01ns 0.0  2.987e-01ns 3.3e-02  7.134e-01ns 3.3e-02  7.634e-01ns 0.0)
rdesr_0_0_0_43 nd_1_0_2000_8666 nd_1_0_2000_8666_ci 5.8285
cd_0_0_0_43 nd_1_0_2000_8666_ci 0 2.43726e-11
id_0_0_0_44 nd_1_0_3333_8666 0 pwl(0 0.0 3.838e-01ns 0.0  4.338e-01ns 2.6e-03  7.649e-01ns 2.6e-03  8.149e-01ns 0.0)
rdesr_0_0_0_44 nd_1_0_3333_8666 nd_1_0_3333_8666_ci 91.3577
cd_0_0_0_44 nd_1_0_3333_8666_ci 0 1.8883e-12
id_0_0_0_45 nd_1_0_4666_8666 0 pwl(0 0.0 3.916e-01ns 0.0  4.416e-01ns 4.5e-02  8.438e-01ns 4.5e-02  8.938e-01ns 0.0)
rdesr_0_0_0_45 nd_1_0_4666_8666 nd_1_0_4666_8666_ci 4.41942
cd_0_0_0_45 nd_1_0_4666_8666_ci 0 5.4145e-13
id_0_0_0_46 nd_1_0_6000_8666 0 pwl(0 0.0 7.626e-02ns 0.0  1.263e-01ns 1.4e-02  4.930e-01ns 1.4e-02  5.430e-01ns 0.0)
rdesr_0_0_0_46 nd_1_0_6000_8666 nd_1_0_6000_8666_ci 15.3213
cd_0_0_0_46 nd_1_0_6000_8666_ci 0 3.32058e-13
id_0_0_0_47 nd_1_0_7333_8666 0 pwl(0 0.0 2.123e-01ns 0.0  2.623e-01ns 1.9e-01  3.283e-01ns 1.9e-01  3.783e-01ns 0.0)
rdesr_0_0_0_47 nd_1_0_7333_8666 nd_1_0_7333_8666_ci 4.07755
cd_0_0_0_47 nd_1_0_7333_8666_ci 0 3.28272e-11
id_0_0_0_48 nd_1_0_8666_8666 0 pwl(0 0.0 7.970e-01ns 0.0  8.470e-01ns 1.0e-01  8.724e-01ns 1.0e-01  9.224e-01ns 0.0)
rdesr_0_0_0_48 nd_1_0_8666_8666 nd_1_0_8666_8666_ci 11.788
cd_0_0_0_48 nd_1_0_8666_8666_ci 0 5.4681e-12

*-- intentional decap
cd_add_cap0 nd_1_0_2000_2000 nd0 'dcap_int_val143'
cd_add_cap1 nd_1_0_4666_2000 nd1 'dcap_int_val144'
cd_add_cap2 nd_1_0_7333_2000 nd2 'dcap_int_val145'
cd_add_cap3 nd_1_0_2000_4666 nd3 'dcap_int_val146'
cd_add_cap4 nd_1_0_4666_4666 nd4 'dcap_int_val147'
cd_add_cap5 nd_1_0_7333_4666 nd5 'dcap_int_val148'
cd_add_cap6 nd_1_0_2000_7333 nd6 'dcap_int_val149'
cd_add_cap7 nd_1_0_4666_7333 nd7 'dcap_int_val150'
cd_add_cap8 nd_1_0_7333_7333 nd8 'dcap_int_val151'
rd_add0 nd0 0 'esr22'
rd_add1 nd1 0 'esr23'
rd_add2 nd2 0 'esr24'
rd_add3 nd3 0 'esr25'
rd_add4 nd4 0 'esr26'
rd_add5 nd5 0 'esr27'
rd_add6 nd6 0 'esr28'
rd_add7 nd7 0 'esr29'
rd_add8 nd8 0 'esr30'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_0_5 nd_pad_port_0_5 nd_pad_0_5 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xd_pad_1_4 nd_pad_port_1_4 nd_pad_1_4 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_2_5 nd_pad_port_2_5 nd_pad_2_5 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
xd_pad_3_4 nd_pad_port_3_4 nd_pad_3_4 ubump_subckt
xd_pad_4_1 nd_pad_port_4_1 nd_pad_4_1 ubump_subckt
xd_pad_4_3 nd_pad_port_4_3 nd_pad_4_3 ubump_subckt
xd_pad_4_5 nd_pad_port_4_5 nd_pad_4_5 ubump_subckt
xd_pad_5_0 nd_pad_port_5_0 nd_pad_5_0 ubump_subckt
xd_pad_5_2 nd_pad_port_5_2 nd_pad_5_2 ubump_subckt
xd_pad_5_4 nd_pad_port_5_4 nd_pad_5_4 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_2000_3333  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_2000_6000  0.001
rd_pad2via_0_5 nd_pad_0_5 nd_2_0_2000_8666  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_3333_2000  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_3333_4666  0.001
rd_pad2via_1_4 nd_pad_1_4 nd_2_0_3333_7333  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_4666_3333  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_4666_6000  0.001
rd_pad2via_2_5 nd_pad_2_5 nd_2_0_4666_8666  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_6000_2000  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_6000_4666  0.001
rd_pad2via_3_4 nd_pad_3_4 nd_2_0_6000_7333  0.001
rd_pad2via_4_1 nd_pad_4_1 nd_2_0_7333_3333  0.001
rd_pad2via_4_3 nd_pad_4_3 nd_2_0_7333_6000  0.001
rd_pad2via_4_5 nd_pad_4_5 nd_2_0_7333_8666  0.001
rd_pad2via_5_0 nd_pad_5_0 nd_2_0_8666_2000  0.001
rd_pad2via_5_2 nd_pad_5_2 nd_2_0_8666_4666  0.001
rd_pad2via_5_4 nd_pad_5_4 nd_2_0_8666_7333  0.001

.ends chiplet4
